US07816395B2
i) Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate, hydrochloride
The 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate from the previous step (31.4 g) was dissolved in a mixture of MeOH (100 mL) and 4N HCl/dioxane (30 mL) and heated to 60° C. for 1.25 h. The solvents were concentrated to a slurry, Et2O (200 mL) was added, the solid filtered, washed well with Et2O to give the titled compound (15.6 g).

reactant | 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNC | C16H22ClN3O2
solvent | MeOH | 100 mL | CO | CH4O
solvent | HCl dioxane | 4N, 30 mL | Cl.O1CCOCC1
product | Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate, hydrochloride | 15.6 g | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC)CNC | InChI=1S/C13H16ClN3O2.ClH/c1-16-8-11(6-13(18)19-2)17-10-4-3-9(7-15)12(14)5-10;/h3-5,11,16-17H,6,8H2,1-2H3;1H/t11-;/m0./s1
